US06500863B1
b) N-isopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-isopropyl-2,6-dichloro-3-nitrobenzenesulfonamide (1.3 g, 4.15 mmol), NaH (60%, 500 mg, 12.45 mmol) and water (89 mg, 4.98 mmol) were reacted to form the desired product (0.7 g, 57%). EI- MS m/z 293.5 (M-H)−.

reactant | N-isopropyl-2,6-dichloro-3-nitrobenzenesulfonamide | 4.15 mmol, 1.3 g | C(C)(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C9H10Cl2N2O4S
reactant | NaH | 12.45 mmol, 500 mg | [H-].[Na+]
reactant | water | 4.98 mmol, 89 mg | O | H2O
product | N-isopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 0.7 g, 57% | C(C)(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C9H11ClN2O5S
